Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Acute onset of low, middle back pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Patient started to develop back pain ___ night (___), which 
became very severe on ___. Sharp, located in the middle 
left back, radiating into the left buttock initially, then into 
the right back. Exacerbated by any small motion of jostle; for 
example, she was unable to sit on the toilet bowl or strain, and 
when she came to the ER she felt every bump on the ride over. No 
relieving factors other than oxycodone. Pain is not constant. No 
other associated symptoms. No fevers, chills. She did experience 
the same sensation radiating into her chest on ___. Patient 
had a CT scan on ___ for abdominal pain which showed a 1.5 cm 
stone in the left renal pelvis and adjacent peripelvic 
stranding. She never had any urinary symptoms. 

In the emergency room, VSS, exam with no CVA tenderness. CBC was 
WNL (9.8, 13.6/43.3, 172), BMP was normal, liver function showed 
only a modestly elevated (42) AST, lipase was negative, and 
troponin was < 0.01. Urine was notable for 55 RBCs and 31 WBCs, 
with mod blood, negative nitrite, >300 protein, trace leuks, and 
few bacteria. Culture is pending. CXR showed no lung 
consolidation. A CT abdomen was obtained which showed:

1. Essentially unchanged 1.5 cm left renal pelvis stone with 
substantial 
adjacent stranding/soft tissue density and minimal associated 
hydronephrosis.  
While the stranding/soft tissue density may reflect inflammatory 
changes, the 
possibility of urothelial cell carcinoma should be considered. 
Recommend 
dedicated MR for further evaluation. 
2. Additional bilateral nonobstructing stones are unchanged. No 
hydroureter. 
3. Diverticulosis without evidence of diverticulitis. 
4. Small hiatal hernia. 

ROS: Positive for back pain, chest pain, depression. A 10-system 
ROS was performed, and other than per HPI was negative.

 
Past Medical History:
1. Previous history of nephrolithiasis
2. HTN
3. Depression
4. Migraines -- in remission
5. Breast CA incidentally discovered after breast reduction
 
Social History:
___
Family History:
Sister died of lung cancer. Mother had breast CA but lived into 
___. Mother suffered from migraines. 
 
Physical Exam:
Admit PE

VS:  Afebrile and vital signs stable (reviewed in bedside 
record)
General Appearance: pleasant, comfortable, no acute distress
Eyes: PERLL, EOMI, no conjuctival injection, anicteric
ENT: no sinus tenderness, MMM, oropharynx without exudate or 
lesions, no supraclavicular or cervical lymphadenopathy, no JVD, 
no carotid bruits, no thyromegaly or palpable thyroid nodules
Respiratory: CTA b/l with good air movement throughout
Cardiovascular: RR, S1 and S2 wnl, no murmurs, rubs or gallops
Gastrointestinal: nd, +b/s, soft, nt, no masses or HSM
Extremities: no cyanosis, clubbing or edema
Skin: warm, no rashes/no jaundice/no skin ulcerations noted
MSK: no CVA tenderness bilaterally. Unable to reproduce pain 
through palpation.
Neurological: Alert, oriented to self, time, date, reason for 
hospitalization.  Cn II-XII intact.  ___ strength throughout.  
No sensory deficits to light touch appreciated.  No 
pass-pointing on finger to nose.  2+DTR's-patellar and biceps. 
No asterixis, no pronator drift, fluent speech.
Psychiatric: pleasant, appropriate affect
GU: no catheter in place

DC physical exam:

VS:  Afebrile and vital signs stable (reviewed in bedside 
record)
General Appearance: pleasant, comfortable, no acute distress
Eyes: PERLL, EOMI, no conjuctival injection, anicteric
ENT: no sinus tenderness, MMM, oropharynx without exudate or 
lesions, no supraclavicular or cervical lymphadenopathy, no JVD, 
no carotid bruits, no thyromegaly or palpable thyroid nodules
Respiratory: CTA b/l with good air movement throughout
Cardiovascular: RR, S1 and S2 wnl, no murmurs, rubs or gallops
Gastrointestinal: nd, +b/s, soft, nt, no masses or HSM
Extremities: no cyanosis, clubbing or edema
Skin: warm, no rashes/no jaundice/no skin ulcerations noted
MSK:  straight leg raise on the left positive; negative on the 
right. No pain with left hip internal and external rotation. 
Strength ___ throughout lower extremities. No CVA tenderness.
Psychiatric: pleasant, appropriate affect
GU: no catheter in place
 
Pertinent Results:
See HPI for details.
___ 05:40AM BLOOD WBC-9.8 RBC-5.33* Hgb-13.6 Hct-43.3 
MCV-81* MCH-25.5* MCHC-31.4* RDW-14.3 RDWSD-41.6 Plt ___
___ 05:40AM BLOOD Plt ___
___ 05:40AM BLOOD Glucose-92 UreaN-16 Creat-0.6 Na-141 
K-5.1 Cl-105 HCO3-26 AnGap-15
___ 05:40AM BLOOD ALT-25 AST-42* AlkPhos-63 TotBili-0.___ year-old woman with a history of recurrent nephrolithiasis 
presenting with acute onset of left mid back pain with findings 
of possible obstructive nephrolithiasis and pyuria, though with 
an absence of systemic symptoms. 

1. Nonobstructive nephrolithiasis. 1.5 cm stone seen with mild 
hydro and stranding, with no leukocytosis and stable vital 
signs. Patient was started on ceftriaxone and received two 
doses. Urology was consulted on HD#1 who felt that this was a 
nonobstructive stone, with the pyuria likely due to the presence 
of a stone. They recommended outpatient follow up. They also did 
not feel that the patient needed a renal MRI, and that changes 
seen on CT were likely reactive from the stone. On physical 
exam, the patient's pain was reproducible with hip flexion; her 
presentation was consistent with musculoskeletal back pain. She 
was discharged with instructions to finish a two week course of 
cefpodoxime, and to follow up with her PCP and urology in two 
weeks to one month.

2. HTN. Continue home metoprolol and lisinopril.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 
2. Metoprolol Tartrate 100 mg PO BID 

No allergies
 
Discharge Medications:
1. amLODIPine 5 mg PO DAILY 
2. Metoprolol Tartrate 100 mg PO BID 
3. Cefpodoxime Proxetil 200 mg PO Q12H 
RX *cefpodoxime 200 mg 1 tablet(s) by mouth Twice daily Disp 
#*24 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Nonobstructive kidney stone
 
Discharge Condition:
Good
 
Discharge Instructions:
Your back pain may be due to your stone, or may be 
musculoskeletal. In any event, follow up with your PCP in two 
weeks, and schedule an appointment with urology as an outpatient 
to remove your stone.

Your imaging is as follows:

CT scan:

1. Essentially unchanged 1.5 cm left renal pelvis stone with 
substantial 
adjacent stranding/soft tissue density and minimal associated 
hydronephrosis.  
While the stranding/soft tissue density may reflect inflammatory 
changes, the 
possibility of urothelial cell carcinoma should be considered. 
Recommend 
dedicated MR for further evaluation. 
2. Additional bilateral nonobstructing stones are unchanged. No 
hydroureter. 
3. Diverticulosis without evidence of diverticulitis. 
4. Small hiatal hernia. 

Chest x-ray:

No evidence of pneumonia.
 
Followup Instructions:
___